US08686160B2
Ethyl 2-({2-[(1R,2S,5S)-2-(acetyloxy)-5-formylcyclopentyl]ethyl}thio)-1,3-thiazole-4-carboxylate (Compound 9)
Triethylamine (3.7 mL) and sulfur trioxide•pyridine complex (1.7 g) were added to a dimethyl sulfoxide (4.0 mL)/ethyl acetate (8.0 mL) solution of ethyl 2-({2-[(1R,2S,5S)-2-(acetyloxy)-5-(hydroxymethyl)cyclopentyl]ethyl}thio)-1,3-thiazole-4-carboxylate (500 mg) (see compound 7 described in the pamphlet of International Publication No. WO 2006/129788) at 10° C., followed by stirring at room temperature for 30 min. To the reaction solution, 1 N hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine; dried with anhydrous sodium sulfate; and concentrated to obtain the title compound (497 mg) having the following physical properties:

reactant | Triethylamine | 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 4.0 mL | CS(=O)C | C2H6OS
reactant | ethyl 2-({2-[(1R,2S,5S)-2-(acetyloxy)-5-(hydroxymethyl)cyclopentyl]ethyl}thio)-1,3-thiazole-4-carboxylate | 500 mg | C(C)(=O)O[C@@H]1[C@@H]([C@H](CC1)CO)CCSC=1SC=C(N1)C(=O)OCC | C16H23NO5S2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | 8.0 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-({2-[(1R,2S,5S)-2-(acetyloxy)-5-formylcyclopentyl]ethyl}thio)-1,3-thiazole-4-carboxylate | 497 mg | C(C)(=O)O[C@@H]1[C@@H]([C@H](CC1)C=O)CCSC=1SC=C(N1)C(=O)OCC | C16H21NO5S2
